US08097636B2
A solution of 3,4-dichlorophenylacetonitrile (3.001 g, 16.13 mmol) in ethanol (33 mL) and 29% NH4OH (6.7 ml, 611.2 mg, 17.44 mmol) in the presence of Raney Ni (333 mg, 3.887 mmol) was stirred vigorously under H2 (1 atm) for 6 h. The reaction mixture was filtered through Celite then the filtrate was concentrated under reduced pressure to give 2-(3,4-dichlorophenyl)ethylamine (2.82 g, 92%) as a pale yellow oil. LC/MS ((10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=190.3; tr=0.80 min.

reactant | 3,4-dichlorophenylacetonitrile | 16.13 mmol, 3.001 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | NH4OH | 17.44 mmol, 6.7 ml, 611.2 mg | [NH4+].[OH-]
solvent | ethanol | 33 mL | C(C)O | C2H6O
catalyst | Ni | 3.887 mmol, 333 mg | [Ni] | Ni
product | 2-(3,4-dichlorophenyl)ethylamine | 2.82 g, 92% | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
